US05278186
Triethylamine (0.14ml) was dropwise added to a mixture of 6-chloro-4-(2-methylphenyl)-2-oxo-2H-1-benzopyran-3-carboxylic acid (342 mg), diphenylphosphoryl azide (DPPA, 330 mg) and benzene (5 ml) under stirring. The mixture was stirred for 20 minutes at room temperature and for 20 minutes under reflux, to which 2,4-difluoroaniline (0.12 ml) was added and further stirred for 2 hours at room temperature. The reaction mixture to which water was added was extracted with ethyl acetate. The extract was washed with water, a saturated NaHCO3 aqueous solution and water, and then dried (MgSO4). The solvent was distilled off to obtain crystals of N-[6-chloro-4-(2-methylphenyl)-2-oxo-2H-1-benzopyran-3-yl]-N'-(2,4-difluorophenyl) urea (311 mg, 70.7%). Recrystallization from ethanol gave colorless needles of mp 210-212° C.

reactant | Triethylamine | 0.14ml | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-4-(2-methylphenyl)-2-oxo-2H-1-benzopyran-3-carboxylic acid | 342 mg | ClC=1C=CC2=C(C(=C(C(O2)=O)C(=O)O)C2=C(C=CC=C2)C)C1 | C17H11ClO4
reactant | diphenylphosphoryl azide | 330 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2,4-difluoroaniline | 0.12 ml | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | water | O | H2O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | N-[6-chloro-4-(2-methylphenyl)-2-oxo-2H-1-benzopyran-3-yl]-N'-(2,4-difluorophenyl) urea | 311 mg, 70.7% | ClC=1C=CC2=C(C(=C(C(O2)=O)NC(=O)NC2=C(C=C(C=C2)F)F)C2=C(C=CC=C2)C)C1 | C23H15ClF2N2O3
